US04178290
A solution of potassium tert.-butylate (4.6 g) in tetrahydrofurane (40 cc) is cooled to -70° C. A solution of ethyl isothiocyanatoacetate (5.8 g) and 1,3-dithiacyclohexan-5-one (5.4 g) in tetrahydrofurane (80 cc) is added dropwise. After 40 minutes, the solution is heated to about 0° C. and a solution of di-tert.-butyl dicarbonate (8.75 g) in tetrahydrofurane (10 cc) is added. The mixture is stirred for a further 12 hours at about 20° C. and then concentrated to dryness under reduced pressure (20 mm Hg) at 30° C. The residue is dissolved in methylene chloride (150 cc), acetic acid (3 cc) is added and the insoluble material is filtered off. The filtrate is concentrated to dryness under reduced pressure (20 mm Hg) at 30° C. The residue is crystallised from ethyl ether (100 cc) and then filtered off and dried under reduced pressure (1 mm Hg) at 20° C. 3-Tert.-butoxycarbonyl-4-ethoxycarbonyl-2-thioxo-1-oxa-7,9-dithia-3-azaspiro[4.5]decane (9.8 g) is thus obtained in the form of white crystals which melt at 125° C. (Kofler instantaneous m.p.).

reactant | ethyl isothiocyanatoacetate | 5.8 g | N(=C=S)CC(=O)OCC | C5H7NO2S
reactant | 1,3-dithiacyclohexan-5-one | 5.4 g | S1CSCC(C1)=O | C4H6OS2
reactant | di-tert.-butyl dicarbonate | 8.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofurane | 40 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 80 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 10 cc | O1CCCC1 | C4H8O
product | 3-Tert.-butoxycarbonyl-4-ethoxycarbonyl-2-thioxo-1-oxa-7,9-dithia-3-azaspiro[4.5]decane | 9.8 g | C(C)(C)(C)OC(=O)N1C(OC2(C1C(=O)OCC)CSCSC2)=S | C14H21NO5S3
